US06313310B1
A. p-Methoxy-styrene
To a stirred solution of n-butyllithium (4 mL, 2,5 M solution in Hexane, 10 mmol) (Aldrich) in ether (30 mL) was added methyltriphenylphosphonium bromide (3.57 g, 10 mmol) (Aldrich) over a period of 5 min. The reaction mixture was stirred for 4 h at room temperature. To the resulting orange solution was added 4-methoxybenzaldehyde (1.34 mL, 10 mmol) (Aldrich) dropwise. The solution became colorless, and a white precipitate separated. The mixture was then heated to reflux and immediately allowed to cool to room temperature. The precipitate was removed by filtration. The precipitate was washed with ether and the combined ethereal filtrates were washed with water until neutral and then dried over anhydrous MgSO4. The solvent was removed, and the residue was used in the next reaction without further purification.

reactant | n-butyllithium | 10 mmol, 2,5 M, 4 mL | C(CCC)[Li]
reactant | 4-methoxybenzaldehyde | 10 mmol, 1.34 mL | COC1=CC=C(C=O)C=C1 | C8H8O2
solvent | ether | 30 mL | CCOCC | C4H10O
catalyst | methyltriphenylphosphonium bromide | 10 mmol, 3.57 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
product | p-Methoxy-styrene | COC1=CC=C(C=C)C=C1 | C9H10O
